US07550461B2
A suspension of 1-methyl-7-nitroindole-2-carboxylic acid (220 mg, 1 mmol) in 5 mL of SO2Cl was heated at reflux for 3 h to give a yellow solution. The excess SO2Cl was removed by distillation and the resulting yellow solid was dissolved in 5 mL of dry THF. Et3N (0.21 mL, 1.5 mmol) and N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methanesulfonamide (327 mg, 1.2 mmol) were added successively and the mixture was stirred 12 h. The reaction mixture was extracted with EtOAc to give 410 mg (87%) of 1-methyl-7-nitroindole-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide.

reactant | 1-methyl-7-nitroindole-2-carboxylic acid | 1 mmol, 220 mg | CN1C(=CC2=CC=CC(=C12)[N+](=O)[O-])C(=O)O | C10H8N2O4
reactant | Et3N | 1.5 mmol, 0.21 mL | CCN(CC)CC | C6H15N
reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methanesulfonamide | 1.2 mmol, 327 mg | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
product | 1-methyl-7-nitroindole-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide | 410 mg, 87% | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)[N+](=O)[O-])C)OC)NS(=O)(=O)C | C22H26N4O6S
